US08957069B2
5-(benzylamino)-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one
Sodium t-butoxide (13.9 g, 145 mmol) was added to a mixture of toluene (100 mL) containing 5-bromo-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one (12.8 g, 48.2 mmol) synthesized in Reference Example 18, benzylamine (15.5 g, 145 mmol), palladium acetate (541 mg, 2.41 mmol) and BINAP (4.50 g, 7.23 mmol), and the mixture was stirred under heated reflux for 20 hours. After cooled to room temperature, water was added to the reaction solution, and extraction was performed using ethyl acetate. The organic layer was washed with saturated saline, and then dried using anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane-ethyl acetate 100:0 to 50:50) to give 9.48 g of the title compound (yield: 67%).

reactant | Sodium t-butoxide | 145 mmol, 13.9 g | CC(C)([O-])C.[Na+]
reactant | 5-bromo-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 48.2 mmol, 12.8 g | BrC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1)C)C | C12H13BrO2
reactant | benzylamine | 145 mmol, 15.5 g | C(C1=CC=CC=C1)N | C7H9N
reactant | BINAP | 7.23 mmol, 4.50 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | palladium acetate | 2.41 mmol, 541 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(benzylamino)-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 9.48 g, yield: 67% | C(C1=CC=CC=C1)NC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1)C)C | C19H21NO2
